US04022833
Condensation of 1-hexene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxyhexylamine] (I: R= CH3 (CH2)3, R' = H, X= (CH2)6, Z= H).

reactant | 1-hexene oxide | C1C(CCCC)O1 | C6H12O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxyhexylamine] | C(CCCCCNCC(CCCC)O)NCC(CCCC)O | C18H40N2O2
